US08859773B2
To a solution of 1-tert-butyl 4-ethyl 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate (256 mg, 0.54 mmol) in methanol (15 mL) was added aqueous 2.5 M NaOH (5 mL), and the resultant mixture was heated at reflux for 18 hours. The mixture was cooled to room temperature and methanol was removed under reduced pressure. The resultant slurry was taken up in 25 mL water, acidified with aqueous 1 N HCl, and then extracted with ethyl acetate (2×50 mL). The combined organics were dried over sodium sulfate, filtered and concentrated to yield 241 mg of 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid as a colorless solid. +APCI (M+H) 444.2, (M+2+H) 446.2; 1H NMR (400 MHz, CDCl3, δ): 7.35 (s, 1H), 3.95 (br. s., 2H), 2.92 (br. s., 2H), 2.71 (s, 2H), 2.08 (d, J=12.9 Hz, 2H), 1.73 (s, 9H), 1.50 (m, 11H).

reactant | 1-tert-butyl 4-ethyl 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate | 0.54 mmol, 256 mg | BrC1=C(C=NN1C(C)(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H34BrN3O4
reactant | NaOH | 2.5 M, 5 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 4-((5-bromo-1-tert-butyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 241 mg | BrC1=C(C=NN1C(C)(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C19H30BrN3O4
